US07737145B2
A solution of methyl 4-[[methyl(2-pyrrolidinylmethyl)amino]methyl]benzoate hydrochloride salt (310 mg, 1.04 mmol) and 4-(4-bromophenoxy)benzaldehyde (301 mg, 1.1 mmol) in dichloroethane was stirred as diisopropylethylamine (DIEA, 1 mL) and sodium triacetoxyborohydride (286 mg, 1.35 mmol) were added sequentially at ambient temperature. After stirring at ambient temperature for 17 hours, the reaction mixture was treated with a saturated aqueous solution of sodium bicarbonate and extracted with EtOAc. The combined organic layers were dried and concentrated. Purification by flash chromatography afforded methyl 4-[[[[(R)-1-[[4-(4-bromophenoxy)phenyl]methyl]-2-pyrrolidinyl]methyl]methylamino]methyl]benzoate (510 mg, 94%); 1NMR (400 MHz, DMSO-d6) δ 7.98 (d, 2H), 7.42 (dd, 2H), 7.24 (d, 2H), 6.91 (d, 2H), 6.83 (d, 2H), 3.82 (s, 3H), 4.16 (d, 1H), 3.55 (dd, 2H), 3.23 (d, 1H), 2.90 (m, 1H), 2.42 (m, 1H), 2.55 (dd, 1H), 2.38 (dd, 1H), 2.11 (s, 3H), 2.17 (m, 1H), 1.99 (m, 1H), 1.63 (m, 3H) ppm.

reactant | methyl 4-[[methyl(2-pyrrolidinylmethyl)amino]methyl]benzoate hydrochloride salt | 1.04 mmol, 310 mg | Cl.CN(CC1NCCC1)CC1=CC=C(C(=O)OC)C=C1
reactant | 4-(4-bromophenoxy)benzaldehyde | 1.1 mmol, 301 mg | BrC1=CC=C(OC2=CC=C(C=O)C=C2)C=C1 | C13H9BrO2
reactant | diisopropylethylamine | 1 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium triacetoxyborohydride | 1.35 mmol, 286 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
product | methyl 4-[[[[(R)-1-[[4-(4-bromophenoxy)phenyl]methyl]-2-pyrrolidinyl]methyl]methylamino]methyl]benzoate | 510 mg, 94% | BrC1=CC=C(OC2=CC=C(C=C2)CN2[C@H](CCC2)CN(C)CC2=CC=C(C(=O)OC)C=C2)C=C1 | C28H31BrN2O3
